US05576340
Dimethyl 4-(2-oxopropoxy)phenylmalonate
Following a procedure similar to that described in Preparation 3, but using 0.5 g of dimethyl 4-hydroxyphenylmalonate, 0.612 g of bromoacetone, 0.616 g of potassium carbonate and 90 ml of dimethylformamide, and then purifying the reaction product by column chromatography through silica gel, using a 2:3 by volume mixture of ethyl acetate and hexane as the eluent, the title compound was obtained having an Rf=0.37 (thin layer chromatography over silica gel, using a 2:3 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | dimethyl 4-hydroxyphenylmalonate | 0.5 g | OC1=CC=C(C=C1)C(C(=O)OC)C(=O)OC | C11H12O5
reactant | bromoacetone | 0.612 g | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | 0.616 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | Dimethyl 4-(2-oxopropoxy)phenylmalonate | O=C(COC1=CC=C(C=C1)C(C(=O)OC)C(=O)OC)C | C14H16O6
